US06921821B2
1-[4-(1-Hydroxyethyl)-phenyl]-ethanone
To a solution of 1-(4-acetylphenyl)-ethanone (1.0 g, 6.2 mmol) in dry methanol (30 mL) at 0° C. was slowly added NaBH4 (0.07 g, 1.9 mmol). The reaction mixture was allowed to stir at 0° C. for 4 h, at which time silica gel TLC in hexanes and ethyl acetate (1:1 v/v, rf=0.5 desired product) showed a mixture of starting material, desired product, and the double-reduction side product. The reaction mixture was treated slowly with 1 N HCl solution (1 mL) at 0° C. until bubbling was no longer observed. Methanol was removed in vacuo to provide an orange residue, which was then partitioned between ethyl acetate (100 mL) and 1 N HCl (100 mL). The organic layer was washed with the 1 N HCl followed by a saturated NaCl solution (100 mL), dried over MgSO4, filtered and concentrated in vacuo to afford an orange oil. The crude product was purified by flash chromatography through a silica gel column with hexanes and ethyl acetate (65:35 v/v) to provide the desired compound (0.55 g, 54%) as a clear oil. 1H NMR (300 MHz, CDCl3) δ ppm 7.97 (d, 2H), 7.50 (d, 2H), 5.00 (dt, 1H), 2.61 (s, 3H), 1.52 (d, 3H).

reactant | 1-(4-acetylphenyl)-ethanone | 6.2 mmol, 1.0 g | C(C)(=O)C1=CC=C(C=C1)C(C)=O | C10H10O2
reactant | NaBH4 | 1.9 mmol, 0.07 g | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 mL | CO | CH4O
product | 1-[4-(1-Hydroxyethyl)-phenyl]-ethanone | OC(C)C1=CC=C(C=C1)C(C)=O | C10H12O2
